US04318912
Benzyl 1-azabicyclo[3.2.0]heptane-3,7-dione-2-carboxylate (26 mg, 0.1 mmol) in anhydrous DMF (0.5 ml) containing PCl3 (27 mg, 0.2 mmol) is kept at 25° C. for 5 hrs. The mixture is diluted with toluene (5 ml), washed with H2O (5×1 ml), 5% HCl (2 ml), 5% NaHCO3 (2 ml) and brine, dried with MgSO4, and filtered. Evaporation of the solvent in vacuo provides crude benzyl 3-chloro-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate.

reactant | Benzyl 1-azabicyclo[3.2.0]heptane-3,7-dione-2-carboxylate | 0.1 mmol, 26 mg | N12C(C(CC2CC1=O)=O)C(=O)OCC1=CC=CC=C1 | C14H13NO4
reactant | PCl3 | 0.2 mmol, 27 mg | P(Cl)(Cl)Cl | Cl3P
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | benzyl 3-chloro-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | ClC1=C(N2C(CC2C1)=O)C(=O)OCC1=CC=CC=C1 | C14H12ClNO3
